US06174884B1
6-(3,4-Dimethoxy-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
6 mg (0.019 mmol) of 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide and 20 mg (0.095 mmol) of methyl 3,4-dimethoxyphenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic potassium tert-butoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate have been added, the phases are separated. Purification by chromatography gives 6.6 mg (68%) of a solid, Rf=0.25 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide | 0.019 mmol, 6 mg | NC1=C(C(=NN1C(CCC)CCCCCC)CCC)C(=O)N | C17H32N4O
reactant | methyl 3,4-dimethoxyphenylacetate | 0.095 mmol, 20 mg | COC=1C=C(C=CC1OC)CC(=O)OC | C11H14O4
reactant | potassium tert-butoxide | 0.5M | CC(C)([O-])C.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-Dimethoxy-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 6.6 mg, 68% | COC=1C=C(CC=2NC(C3=C(N2)N(N=C3CCC)C(CCC)CCCCCC)=O)C=CC1OC | C27H40N4O3
